US07345180B2
The N-benzyl-4-methyl-4-nitropentanoic acid amide (2.5 g) obtained above was dissolved in tetrahydrofuran (20 ml) and cooled to 0° C. 1 N Borane tetrahydrofuran complex (13 ml) was added dropwise thereto and then stirred overnight at room temperature. The reaction mixture was cooled again to 0° C., and 2 N hydrochloric acid (30 ml) was added thereto, followed by heating to 50° C. The reaction solution was extracted with ethyl acetate. The aqueous phase was alkalinized by 50% sodium hydroxide solution, extracted with chloroform. The extract was washed with a saturated saline solution, and dried over sodium sulfate anhydrous. The product was concentrated under reduced pressure to give benzyl-4-methyl-4-nitropentylamine (1.7 g, Y.: 73%) as a colorless oil.

reactant | N-benzyl-4-methyl-4-nitropentanoic acid amide | 2.5 g | C(C1=CC=CC=C1)NC(CCC(C)([N+](=O)[O-])C)=O | C13H18N2O3
reactant | hydrochloric acid | 2 N, 30 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | benzyl-4-methyl-4-nitropentylamine | 1.7 g, 73% | C(C1=CC=CC=C1)NCCCC(C)([N+](=O)[O-])C | C13H20N2O2
